### PR TITLE
feat: Updates to foundations, and audit gap resolutions, and improved ergonomics

### PR DESCRIPTION
**Pull request by dtumad**
### Updates to Dependencies
- Updates lean major version `4.23 -> 4.29` and resolves build errors
- Updates to most recent `Lean_RV64D` extraction (as of 4/24 currently, should pin something pre-merge). Uses the main upstream repo now instead of a `succinctlabs` fork. Memory proofs in particular had large changes from this, largely for the better.
- Updates the extraction to use public `sp1` release `v6.1.0` and fix breaking changes (no `is_trusted` or related constraints, some numerical opcode re-ordering, JALR changes)

### Audit Gaps
- Load proofs were not in the SP1Chips.lean file and contained unsurfaced `stop` calls as a result. Added them there and fixed all the gaps. Should add `lake exe mk_all` check to CI to protect against this in another PR.
- Utype proofs were missing `sorry` stubs and so also didn't surface. Added them and fixed all the gaps.
- `slti` proof incorrectly had access to an `is_sltu` assumption, making the proof trivial. Removed this and resolved the gap.

### Assumption Changes
- Added a `pma_check` axiom mirroring existing `pmp_check` axiom. Needed for the RV64D extraction update.
-  Removed `mprotect_disabled` assumption, as it's not needed for this release.
- Removed assumptions about `Register.plat_clint_base` and `Register.plat_clint_size`. Not needed after RV64D update.
- `AUIPC` and `LUI` trusted intruction constraints now include `op_b_0.val % 2 ^ 12 = 0` instead of `op_b_0 >= 2^12` (i.e. the value is properly zero-extended).
- Added assumption that `Register.mseccfg` has a zero bit in position 10, i.e. Zicfilp is not enabled in M-mode. Needed for the RV64D extraction update.

### General Changes
- Add standard linters from ArkLib/Mathlib, fix all generated warnings, should add this check to CI.
- Basic use of mathlib shake to add parallel compilation. Should probably also add this to CI.
- Lots of refactors and updates to agent documentation. AI agents should run into pitfalls much less often now.
- ~40% speedup in DivRem and ShiftRight compile times, mostly by breaking `obtain` blocks apart, tweaking instance priorities, and extracting some shared helper lemmas.
- Remove most of KoalaBear namespace and migrate lemmas to general fields (Full milestone 1 of EF grant needs constraint extraction updates as well).
- Remove ``BoundedKoalaBear` and related abstractions completely

### CODE REVIEW

File: SP1Chips/JalChip.lean [hunk 1]
```diff
@@ -10,134 +10,98 @@ open Sail SailState BitVec LeanRV64D.Functions
...
+  let op_a := regidx.Regidx (BitVec.ofNat 5 Main[6].val)
+  set_next_pc (Word.toBitVec64 #v[Main[22], Main[23], Main[24], Main[25]])
+  wX_bits op_a (Word.toBitVec64 #v[Main[26], Main[27], Main[28], Main[29]])
 
-def spec_jal (imm : BitVec 21) (rd : regidx) : SailM Unit := do
+noncomputable def spec_jal (imm : BitVec 21) (rd : regidx) : SailM Unit := do
   Sail.writeReg Register.nextPC ((← Sail.readReg Register.PC) + 4#64)
   let _ ← execute_JAL imm rd
 
 set_option debug.skipKernelTC true in
```
Comment (alexanderlhicks) [inline SP1Chips/JalChip.lean:35]: how come this is needed (here and in other places)?

File: SP1Chips/Load/LoadX0/Constraints.lean [hunk 2]
```diff
@@ -10,137 +10,136 @@ namespace LoadX0
 section constraints
 
 -- Generated Lean code for chip LoadX0Chip
-@[irreducible] def constraints (Main : Vector (Fin KB) 50) : SP1ConstraintList :=
+@[irreducible] def constraints (Main : Vector (Fin KB) 48) : SP1ConstraintList :=
```
Comment (alexanderlhicks) [inline SP1Chips/Load/LoadX0/Constraints.lean:13]: Is there a theorem for these constraints elsewhere? generally speaking it might be useful to make notes for each constraints file of where the corresponding correctness theorem is located.

File: SP1Chips/LoadByteChip.lean [hunk 3]
```diff
@@ -4,501 +4,478 @@ import SP1Operations.Operation.AddrAddOperation
...
     (h_cstrs : (LoadByte.constraints Main).allHold)
     (state_cstrs : (LoadByte.constraints Main).initialState s)
-    (h_is_lbu : Main[47] = 1)
+    (h_is_lbu : Main[46] = 1)
     (h_fits_in_mem :
       let reg_val := (Word.toBitVec64 #v[Main[15], Main[16], Main[17], Main[18]]).toNat
       let offset := (BitVec.signExtend 64 (sp1_imm_c Main)).toNat
-      reg_val + offset + 1 < 2^64) :
+      reg_val + offset + 1 < 2 ^ 64)
+    (h_below_clint :
```
Comment (alexanderlhicks) [inline SP1Chips/LoadByteChip.lean:277]: Could you document assumptions like this? It shows up in several other places. Since this would be input dependent it's not immediately obvious this is realistic. Maybe it could be placed in SP1Foundations/Assumptions.lean if it stays as is?

File: SP1Chips/StoreHalfChip.lean [hunk 4]
```diff
@@ -13,80 +13,74 @@ noncomputable def spec_sb (imm : BitVec 12) (rs1 rs2 : regidx) : SailM Execution
...
     (state_cstrs : (StoreHalf.constraints Main).initialState s)
-    (h_is_real : Main[45] = 1)
+    (h_is_real : Main[44] = 1)
     (h_fits_in_mem :
       let reg_val := (Word.toBitVec64 #v[Main[15], Main[16], Main[17], Main[18]]).toNat
       let offset := (BitVec.signExtend 64 (sp1_imm_c Main)).toNat
-      let ram_size := (s.regs.get Register.plat_ram_size (hs _)).toNat
-      reg_val + offset + 2 ≤ ram_size)
+      reg_val + offset + 2 < 2 ^ 64)
     -- dt: This should eventually come from trusted instruction assumption
```
Comment (alexanderlhicks) [inline SP1Chips/StoreHalfChip.lean:43]: Any progress on this / reason this might be harder than expected? h_is_aligned shows up in other places.

File: SP1Chips/LoadByteChip.lean [hunk 5]
```diff
@@ -4,501 +4,478 @@ import SP1Operations.Operation.AddrAddOperation
...
+
+-- correct_lb unfolds Load chip + Sail memory read spec
+theorem correct_lb (Main : Vector (Fin KB) 47)
     (s : SailState) (hs : SailState.isInitialized s)
     (hs_config : SailState.isValidMemConfig s hs)
     (h_cstrs : (LoadByte.constraints Main).allHold)
     (state_cstrs : (LoadByte.constraints Main).initialState s)
-    (h_is_lb : Main[46] = 1)
+    (h_is_lb : Main[45] = 1)
     (h_fits_in_mem :
```
Comment (alexanderlhicks) [inline SP1Chips/LoadByteChip.lean:42]: Could this be derived from constraints? (also appears in other places iirc)

**Comment by alexanderlhicks** [comment]
Some general comments:
It would be good for the README.md to include
(i) The concrete list of instructions for which there are/aren't theorems, as far as I can tell there are none for FENCE, ECALL, EBREAK, which should be documented as these are due to SP1 implementation details.
(ii) A note on the TCB, including the spec, constraint extraction, axioms (and those of the RISC-V spec), non-trivial hypotheses, use of tactics that expand the tcb (native_decide is avoided I assume), assumptions about the lookups/permutation arguments (as outlined in SP1Foundations/Constraint.lean).
(iii) Pin or else make a note of when the proofs were last regenerated relative to a SP1 release or merge commit hash.

File: SP1Chips/LoadByteChip.lean (hunk 5 above)
Comment (dtumad) [reply SP1Chips/LoadByteChip.lean:42]: Constraints like these specifically are toggles because the same circuit handles multiple instructions. If this were zero you'd want it to behave like unsigned version so the theorem should fail then. There could I suppose be a combined lemma showing the circuit behavior as a whole. Across cases.

Comment (dtumad) [reply SP1Chips/LoadByteChip.lean:42]: In a lot of the chips, there are specific predicates like `is_sltu`, `is_divu`, etc. that make this type of assumption look cleaner, but they are fundamentally the same sort of assumption

File: SP1Chips/LoadByteChip.lean (hunk 3 above)
Comment (dtumad) [reply SP1Chips/LoadByteChip.lean:277]: This is actually strictly weaker than the already proven `is_u48_sum` found [here](https://github.com/succinctlabs/sp1-lean/blob/e4fa1b742803f4296e44fa398338005a3bb6d6b8/SP1Operations/Operation/AddrAddOperation.lean#L22), since SP1 has an even smaller memory region than we need for this. These should definitely be replaced with that, will work on the changes.

File: SP1Chips/StoreHalfChip.lean (hunk 4 above)
Comment (dtumad) [reply SP1Chips/StoreHalfChip.lean:43]: See above comment on `loadByte`, this can come from the same place. Although it might be good to then add `(s.regs.get Register.plat_ram_size (hs _)).toNat > 2^48`, which would hopefully let us drop `pma_check_machine` axiom as constraints imply in memory if we assume that much ram size. Will also look at this.

File: SP1Chips/JalChip.lean (hunk 1 above)
Comment (dtumad) [reply SP1Chips/JalChip.lean:35]: It is sort of hard to diagnose them, tends to have something to do with how sail generates many coercions between bitvec/nat/int. Often times these in theory discharge easily with reflexivity etc., but cause problems when the final proof compiles because we have large constants sitting around. #94 has started to fix some by just not having the koala bear prime in certain expressions, but still other things like `Word.toBitVec64` still produce values like `2^48` in their terms, which the kernel can crash over when unifying.

The best MWE is probably something like:

```lean4
example (b n : ℕ) : -- unifies properly
    ((b : ℤ) % n).toNat = b % n := by
  rfl

example (b n : ℕ) : -- deep recursion
    ((b * 2^64 : ℤ) % n).toNat = (b * 2^64) % n := by
  rfl
```

I'd be fine scoping #94 to fix all of these as well, but it is really just hunting down and fixing overzealous unification with large constants, which can be difficult when `aesop` or `simp` do those things *internally* to their execution.

File: SP1Chips/Load/LoadX0/Constraints.lean (hunk 2 above)
Comment (dtumad) [reply SP1Chips/Load/LoadX0/Constraints.lean:13]: No, I missed `LoadX0` when doing the others. I will add that back and plan to gather all the `chip_correct` statements in a centralized file, making the current correctness statements into helper lemmas in each chip-specific file. I think that's probably the best way to make it easy to both make coverage clear to see and the proofs easy to look for.

File: SP1Chips/JalChip.lean (hunk 1 above)
Comment (dtumad) [reply SP1Chips/JalChip.lean:35]: And also notably, the kernal is not shy about unfolding various things eagerly, so something like `def Nat.twoPow (n : ℕ) : ℕ := 2 ^ n`  can't solve this.

**Comment by dtumad** [comment]
Superceded by #97
